US06403573B1
c) 6-Fluoro-2,3-dihydro-1-methyl-1H-inden-4-ol
5 g of 5-fluoro-2,3-dihydro-7-hydroxy-3-methyl-1H-inden-1-one was heated to 80° C. until all the solid was melted. After adding aluminium chloride (9.3 g) to this melt the reaction mixture was heated to 170° C. during 17 hours. After cooling water and ethyl acetate were added and the mixture was heated on a steam bath until everything was dissolved. The organic layer was separated and washed with water and brine. After removing the solvent the compound was purified by chromatography with the add of heptane/ethylacetate (9:1) resulting in 2.2 g of 6-fluoro-2,3-dihydro-1-methyl-1H-inden-4-ol as a semi-solid, M.S. (C.I.) (M/Z): 167 [M+H]+.

reactant | 5-fluoro-2,3-dihydro-7-hydroxy-3-methyl-1H-inden-1-one | 5 g | FC=1C=C2C(CC(C2=C(C1)O)=O)C | C10H9FO2
reactant | aluminium chloride | 9.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Fluoro-2,3-dihydro-1-methyl-1H-inden-4-ol | FC=1C=C(C=2CCC(C2C1)C)O | C10H11FO
